US04267180
J. 2-[4-(N-Acetyl-DL-prolylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid imidazolide
A mixture of 7.4 g (20 mmol) of (2-[4-(N-acetyl-DL-prolylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid and 6.48 g (40 mmol) of carbonyldiimidazole in 75 ml of tetrahydrofuran is stirred at 51°-52° C. for 1 hr and at room temperature overnight. The reaction mixture is filtered and the solid washed with tetrahydrofuran and ether giving 5.8 grams of the title imidazolide.

reactant | 2-[4-(N-acetyl-DL-prolylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid | C(C)(=O)N1C(C(=O)NC2=CC=C(C=C2)C2=NC=C(C(=N2)O)C(=O)O)CCC1 | C18H18N4O5
reactant | carbonyldiimidazole | 40 mmol, 6.48 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2-[4-(N-Acetyl-DL-prolylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid imidazolide | [N-]1C=NC=C1.C(C)(=O)N1C(C(=O)NC2=CC=C(C=C2)C2=NC=C(C(=N2)O)C(=O)O)CCC1 | InChI=1S/C18H18N4O5.C3H3N2/c1-10(23)22-8-2-3-14(22)17(25)20-12-6-4-11(5-7-12)15-19-9-13(18(26)27)16(24)21-15;1-2-5-3-4-1/h4-7,9,14H,2-3,8H2,1H3,(H,20,25)(H,26,27)(H,19,21,24);1-3H/q;-1
